US06344459B1
To a solution of 4-[(3-bromophenyl)amino]-7-fluoroquinazoline (0.60 g, 1.89 mmol) in Dimethylsulfoxide (DMSO) (10 mL) was added 4-(3-aminopropyl)morpholine (7.54 mmol, 1.10 mL). The reaction mixture was heated at 110° C. for 26 hours and then diluted with water, basified by the addition of saturated NaHCO3 and then extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, and concentrated in vacuo. Column chromatography on Grade III alumina with gradient elution from EtOAc to EtOAc/MeOH (98:2) followed by recrystallization from EtOAc/hexane gave 4-[(3-bromophenyl)amino]-7-[(3-morpholinopropyl)amino]quinazoline (0.65 g, 78%) as cream crystals,

reactant | 4-[(3-bromophenyl)amino]-7-fluoroquinazoline | 1.89 mmol, 0.60 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)F | C14H9BrFN3
reactant | 4-(3-aminopropyl)morpholine | 7.54 mmol, 1.10 mL | NCCCN1CCOCC1 | C7H16N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-[(3-bromophenyl)amino]-7-[(3-morpholinopropyl)amino]quinazoline | 0.65 g, 78% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)NCCCN1CCOCC1 | C21H24BrN5O
